US06395733B1
(3-Chloro-phenyl)-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-amine
Following the procedure described in Example 1, the title compound was prepared from 4chloro-7H-pyrrolo[2,3-d]pyrimidine and 3-chloroaniline (3.4%). LC-MS: 245 (MH+); anal. RP18-HPLC RT: 3.74 min; HCl salt MP: 227-228° C.

reactant | 4chloro-7H-pyrrolo[2,3-d]pyrimidine | ClC=1C2=C(N=CN1)NC=C2 | C6H4ClN3
reactant | 3-chloroaniline | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | HCl | Cl | ClH
product | (3-Chloro-phenyl)-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-amine | ClC=1C=C(C=CC1)NC=1C2=C(N=CN1)NC=C2 | C12H9ClN4
